US06919331B2
2,2-Dimethyl-propionic Acid 4-{5-aminomethyl-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl}-butyl Ester;
A solution of 2,2-dimethyl-propionic acid 4-{5-(tert-butoxycarbonylamino-methyl)-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl}-butyl ester (59 mg, 0.089 mmol) and TFA (138 μL, 1.79 mmol) in dichloromethane (2 mL) was stirred for 4 hrs at room temperature. The volatiles were removed in vacuo and the residue dissolved in dichloromethane. A solution of 4N HCl in dioxane (233 μL, 10 equiv.) was added, followed by concentration. The residue was triturated from diethyl ether and filtered to give the title compound (46 mg, 87%) as a tan solid:

reactant | 2,2-dimethyl-propionic acid 4-{5-(tert-butoxycarbonylamino-methyl)-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl}-butyl ester | 0.089 mmol, 59 mg | C(C)(C)(C)OC(=O)NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCOC(C(C)(C)C)=O)C=C1 | C33H40F3N5O6
reactant | TFA | 1.79 mmol, 138 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 233 μL, 10 equiv. | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2,2-Dimethyl-propionic Acid 4-{5-aminomethyl-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl}-butyl Ester | 46 mg, 87% | NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCOC(C(C)(C)C)=O)C=C1 | C28H32F3N5O4
